US05883247
To a stirred solution of 134.9 g (Z)-(2-aminothiazol-4-yl)-acetoxyiminoacetic acid dihydrate (508.6 mmol) and 570 mg 1,4-diazabicyclo[2.2.2]octane (DABCO) (5.09 mmol) in 1500 ml dimethylacetamide was added under argon 158 ml tributylamine (661 mmol). The yellowish solution was cooled to -20° C. and over 30 min was added dropwise 104 ml diethyl chlorothiophosphate (661 mmol). Stirring was continued at -20° C. for 3.5 h. The reaction was followed by HPLC. After 3 h, all starting material was consumed. The reaction mixture was allowed to warm up to 0° C. and over 1.0 h was added dropwise 2200 ml water. The precipitated product was filtered, washed with water and dissolved in 800 ml dichloromethane. The aqueous layer was back-extracted with 300 ml dichloromethane. The combined organic layers were dried over 70 g sodium sulfate and concentrated under reduced pressure until the product started to crystallize. The residual solution was cooled to 2° C. and 1200 ml n-hexane was added dropwise over 1 h. The resulting suspension was stirred for 1 h at 2° C. and then filtered. The crystalline product was washed with n-hexane and dried to constant weight. (Z)-(2-aminothiazol-4-yl)-acetoxyiminoacetic acid diethoxythiophosphoryl ester was obtained as a white solid (166.9 g, yield=86%, mp 128°-130° C. and was stored under argon at -20° C. No further purification was necessary and the product was used as isolated for the next step.

reactant | (Z)-(2-aminothiazol-4-yl)-acetoxyiminoacetic acid dihydrate | 508.6 mmol, 134.9 g | O.O.NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)=O
reactant | 1,4-diazabicyclo[2.2.2]octane | 5.09 mmol, 570 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | diethyl chlorothiophosphate | 661 mmol, 104 ml | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
solvent | dimethylacetamide | 1500 ml | CC(=O)N(C)C | C4H9NO
product | (Z)-(2-aminothiazol-4-yl)-acetoxyiminoacetic acid diethoxythiophosphoryl ester | yield=86% | C(C)OP(=S)(OCC)OC(\C(=N/OC(C)=O)\C=1N=C(SC1)N)=O | C11H16N3O6PS2
